US07384967B2
1-(2-phenoxyphenyl)-5-(thiazol-2-yl)biuret
To a solution of 2-phenoxyaniline (0.46 g, 2.50 mmol) in tetrahydrofuran (20 ml) was added diisopropylethylamine (0.89 ml, 5.00 mmol) and the solution was cooled to −30° C., then N-(chlorocarbonyl)isocyanate (0.3 ml, 3.75 mmol) was slowly added. The mixture was then allowed to warm up to the room temperature during 30 min. 2-Aminothiazole (0.375 g, 3.75 mmol) was added to the reaction mixture and stirred at room temperature for 6 hours. The reaction mixture was concentrated under reduced pressure to afford crude product, which was purified by silica gel chromatography (hexanes:ethyl acetate from 80:20 to 30:70) to afford title compound (0.49 g, 55%) as pale yellow solid.

reactant | 2-phenoxyaniline | 2.50 mmol, 0.46 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
reactant | diisopropylethylamine | 5.00 mmol, 0.89 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(chlorocarbonyl)isocyanate | 3.75 mmol, 0.3 ml | C(=NC(=O)Cl)=O | C2ClNO2
reactant | 2-Aminothiazole | 3.75 mmol, 0.375 g | NC=1SC=CN1 | C3H4N2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(2-phenoxyphenyl)-5-(thiazol-2-yl)biuret | 0.49 g, 55% | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=O)NC(=O)NC=1SC=CN1 | C17H14N4O3S
